US05814653
6-(3,5-difluorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 8.6 μL (0.051 mMol) 3,5-difluorobenzoyl chloride, 6.2 mg (36%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 3,5-difluorobenzoyl chloride | 0.051 mMol, 8.6 μL | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
product | 6-(3,5-difluorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 6.2 mg, 36% | FC=1C=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C(C1)F | C21H21F2N3O
